US05359128
Three equivalents of acetyl chloride were added dropwise in a flask to one equivalent of malic acid while keeping the temperature below 0° C. After the acetyl chloride was added, the mixture was stirred at room temperature overnight. Excess acetyl chloride and acetic acid were then distilled under a water pump at room temperature to provide malic anhydride acetate.

reactant | acetyl chloride | Three equivalents | C(C)(=O)Cl | C2H3ClO
reactant | malic acid | one equivalent | C(C(O)CC(=O)O)(=O)O | C4H6O5
product | malic anhydride acetate | C(C)(=O)O.C1(C(O)CC(=O)O1)=O | InChI=1S/C4H4O4.C2H4O2/c5-2-1-3(6)8-4(2)7;1-2(3)4/h2,5H,1H2;1H3,(H,3,4)
